US09315458B2
E) methyl 4-ethyl-2-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
A mixture of the mixture (1.00 g) of methyl 5-bromo-4-ethyl-2-hydroxybenzoate and methyl 3,5-dibromo-4-ethyl-2-hydroxybenzoate, bis(pinacolato)diboron (1.47 g), potassium acetate (1.14 g), trans-dichlorobis(triphenylphosphine)palladium(II) (0.14 g) and toluene (20.0 mL) was stirred overnight at 100° C. under argon atmosphere. The reaction mixture was diluted with ethyl acetate, and the mixture was washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.82 g). This compound was used in the next step without an additional purification.

reactant | methyl 5-bromo-4-ethyl-2-hydroxybenzoate | 1.00 g | BrC=1C(=CC(=C(C(=O)OC)C1)O)CC | C10H11BrO3
reactant | methyl 3,5-dibromo-4-ethyl-2-hydroxybenzoate | BrC=1C(=C(C(=O)OC)C=C(C1CC)Br)O | C10H10Br2O3
reactant | bis(pinacolato)diboron | 1.47 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.14 g | C(C)(=O)[O-].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 0.14 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | toluene | 20.0 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 4-ethyl-2-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.82 g | C(C)C1=CC(=C(C(=O)OC)C=C1B1OC(C(O1)(C)C)(C)C)O | C16H23BO5
